US06441005B1
5-(S)-Thioacetamidomethyl-3-[4′-(tert-butoxy)carbonyl-3′-fluorophenyl]oxazo-lidine-2-one
A solution of 5-(S)-aminomethyl-3-[4′-(tert-butoxy)carbonyl-3′-fluorophenyl]-oxazolidine-2-one (3.00 g, 9.66 mmol), triethylamine (1.35 ml, 19.3 mmol), and ethyl dithioacetate (1.22 ml, 10.6 mmol) in DMF (8 mL) was stirred at room temperature for 3 hours. The reaction mixture was diluted with ethyl acetate (50 ml), washed with 3% aqueous citric acid (3×30 mL), saturated aqueous sodium bicarbonate (30 mL), brine, and dried (MgSO4). Evaporation afforded the product as a white solid (3.00 g, 84%). MS (m/z): [M+H]+=369.

reactant | 5-(S)-aminomethyl-3-[4′-(tert-butoxy)carbonyl-3′-fluorophenyl]-oxazolidine-2-one | 9.66 mmol, 3.00 g | NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)OC(C)(C)C)F | C15H19FN2O4
reactant | triethylamine | 19.3 mmol, 1.35 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl dithioacetate | 10.6 mmol, 1.22 ml | C(C)(=S)SCC | C4H8S2
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 5-(S)-Thioacetamidomethyl-3-[4′-(tert-butoxy)carbonyl-3′-fluorophenyl]oxazo-lidine-2-one | 3.00 g, 84% | C(C)(=S)NC[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C(=O)OC(C)(C)C)F | C17H21FN2O4S
